US05350872
Preparation of 3-(3,4,5-trimethoxyphenyl) propionic acid
16.1 g (0.05 mol) of 5-(3,4,5-trimethoxyphenylmethylene)- 2,2-dimethyl-1,3-dioxane-4,6-dione (m.p.: 159°-160° C.) were added to 50 ml of the mixture of formic acid and triethylamine prepared as described in Example 1, then the procedure described in Example 2 was followed.

reactant | 5-(3,4,5-trimethoxyphenylmethylene)- 2,2-dimethyl-1,3-dioxane-4,6-dione | 0.05 mol, 16.1 g | COC=1C=C(C=C(C1OC)OC)C=C1C(OC(OC1=O)(C)C)=O | C16H18O7
reactant | formic acid | C(=O)O | CH2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3,4,5-trimethoxyphenyl) propionic acid | COC=1C=C(C=C(C1OC)OC)CCC(=O)O | C12H16O5
